US08080568B1
To a stirred mixture of 4-(bromomethyl)-3-nitrobenzonitrile (5.00 g, 20.74 mmol) (prepared according to the method described in WO 07/024,945 A1) and dimethylamine hydrochloride (2.03 g, 24.89 mmol) in CH2Cl2 (70 mL) was added triethylamine (6.30 g, 62.23 mmol) dropwise at 0° C., and the mixture was stirred at room temperature overnight. The reaction mixture was evaporated to dryness under reduced pressure, and the residue was diluted with water (20 mL) and extracted with CH2Cl2 (3×100 mL). The CH2Cl2 solution was dried over anhydrous Na2SO4, filtered, and evaporated to dryness under reduced pressure. The residue was purified by MPLC on silica gel using a mixture of EtOAc and hexane as eluent to give 4-((dimethylamino)methyl)-3-nitrobenzene (3.58 g, 84%) as an orange solid. 1H NMR (400 MHz, CDCl3): δ 8.15 (br s, 1H), 7.92 (br s, 1H), 7.85 (br d, 1H, J=7.2 Hz), 3.80 (s, 2H), 2.27 (s, 6 H).

reactant | 4-(bromomethyl)-3-nitrobenzonitrile | 20.74 mmol, 5.00 g | BrCC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C8H5BrN2O2
reactant | dimethylamine hydrochloride | 24.89 mmol, 2.03 g | Cl.CNC
reactant | triethylamine | 62.23 mmol, 6.30 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 70 mL | C(Cl)Cl | CH2Cl2
product | 4-((dimethylamino)methyl)-3-nitrobenzene | 3.58 g, 84% | CN(C)CC1=C(C=CC=C1)[N+](=O)[O-] | C9H12N2O2
